US06927228B2
(b) N-(4-Benzyloxy-3-bromo benzyl)-N-methylamine
25 g (86 mmol) of 4-benzyloxy-3-bromo-benzaldehyde, 500 ml of methanol, 29 g (430 mmol) of methylamine hydrochloride and 8 g (127 mmol) of sodium cyanoborohydride are introduced into a round-bottomed flask under a stream of nitrogen. The reaction medium is stirred for 48 hours at room temperature. The methanol is evaporated off. The residue is taken up in ethyl acetate and water and then acidified. After separation of the phases once settling has taken place, the aqueous phase is returned to basic pH with sodium hydroxide and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and then evaporated. The residue is purified by chromatography on a column of silica eluted with a dichloromethane/ethanol mixture (9/1). 9.9 g (38%) of the expected product are obtained in the form of a colorless oil.

reactant | 4-benzyloxy-3-bromo-benzaldehyde | 86 mmol, 25 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)Br | C14H11BrO2
reactant | methylamine hydrochloride | 430 mmol, 29 g | Cl.CN
reactant | sodium cyanoborohydride | 127 mmol, 8 g | C(#N)[BH3-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | N-(4-Benzyloxy-3-bromo benzyl)-N-methylamine | 9.9 g, 38% | C(C1=CC=CC=C1)OC1=C(C=C(CNC)C=C1)Br | C15H16BrNO
